US04168266
[(Cyanomethyl)amino]oxoacetic acid, 4-nitrophenyl ester
50 mM of [(cyanomethyl)amino]oxoacetyl chloride dissolved in methylene chloride is added dropwise at 0° to a solution of 40 mM of p-nitrophenol and 40 mM of dimethylaniline in methylene chloride. After stirring for one hour, the reaction mixture is extracted once with dilute hydrochloric acid and twice with water. The dried methylene chloride phase is concentrated under vacuum and yields 4.2 g. of [(cyanomethyl)amino]-oxoacetic acid, 4-nitrophenyl ester as a brown oil which crystallizes upon trituration with ether. Recrystallization from toluene gives white crystals, m.p. 123-124°.

reactant | [(cyanomethyl)amino]oxoacetyl chloride | 50 mM | C(#N)CNC(C(=O)Cl)=O | C4H3ClN2O2
reactant | p-nitrophenol | 40 mM | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dimethylaniline | 40 mM | CN(C1=CC=CC=C1)C | C8H11N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(Cyanomethyl)amino]oxoacetic acid, 4-nitrophenyl ester | C(#N)CNC(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H7N3O5
